US05556864
49(a) 1-t-Butoxycarbonyl-3-{2-[2-(3-methoxyphenyl)ethyl]phenoxymethyl}piperidine
Following a procedure similar to that described in Example 40, 0.790 g of 2-[2-(3-methoxyphenyl)ethyl]phenol (prepared as described in Preparation 20), 0.388 g of potassium t-butoxide and 1.28 g of 1-t-butoxycarbonyl-3-(p-toluenesulfonyloxymethyl)piperidine were reacted in 15 ml of dimethylacetamide. The mixture was then worked up as described in Example 40, and the crude product thus obtained was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.09 g (yield 74%) of the title compound as a colorless oil.

reactant | 2-[2-(3-methoxyphenyl)ethyl]phenol | 0.790 g | COC=1C=C(C=CC1)CCC1=C(C=CC=C1)O | C15H16O2
reactant | potassium t-butoxide | 0.388 g | CC(C)([O-])C.[K+]
reactant | 1-t-butoxycarbonyl-3-(p-toluenesulfonyloxymethyl)piperidine | 1.28 g | C(C)(C)(C)OC(=O)N1CC(CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO5S
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | 1-t-Butoxycarbonyl-3-{2-[2-(3-methoxyphenyl)ethyl]phenoxymethyl}piperidine | 1.09 g, yield 74% | C(C)(C)(C)OC(=O)N1CC(CCC1)COC1=C(C=CC=C1)CCC1=CC(=CC=C1)OC | C26H35NO4
